US07253192B2
B] 5-Chloro-2-trifluoromethyl-pyrimidine
A solution of 4.70 g (85% purity, 35.65 mmol) of trifluoroacetamidine and 10.93 g (35.65 mmol) of ((Z)-2-chloro-3-dimethylamino-allylidene)-dimethyl-ammonium; hexafluoro phosphate [Davies, Ian W.; Marcoux, Jean-Francois; Wu, Jimmy; Palucki, Michael; Corley, Edward G.; Robbins, Michael A.; Tsou, Nancy, Ball, Richard G.; Dormer, Peter; Larsen, Robert D.; Reider, Paul J, Journal of Organic Chemistry 2000, 65(15), 4571-4574] in 70 ml acetonitrile was treated with 4.33 ml (42.78 mol) of triethylamine and stirred for 4 h at room temperature. The reaction was poured into 250 ml of water and extracted with ether (three times). The organic phases were washed with water (two times), dried (Na2SO4) and carefully evaporated to give 3.66 g of the title compound as an orange volatile liquid.

reactant | trifluoroacetamidine | 35.65 mmol, 4.70 g | FC(C(=N)N)(F)F | C2H3F3N2
reactant | ((Z)-2-chloro-3-dimethylamino-allylidene)-dimethyl-ammonium | 35.65 mmol, 10.93 g | Cl\C(\C=[N+](C)C)=C/N(C)C
reactant | hexafluoro phosphate | CCN\1C2=CC=CC=C2S/C1=C\C#C/C(=C\C3=[N+](C4=CC=CC=C4S3)CC)/C.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 42.78 mol, 4.33 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | water | 250 ml | O | H2O
product | 5-Chloro-2-trifluoromethyl-pyrimidine | 3.66 g | ClC=1C=NC(=NC1)C(F)(F)F | C5H2ClF3N2
